US05591762
4'-[(2-n-Propyl-4-methyl-6-(1-n-hexyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic acid
Prepared analogously to Example 1 from tert.butyl 4'-[(2-n-propyl-4-methyl-6-(1-n-hexyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl and trifluoroacetic acid in methylene chloride.

reactant | tert.butyl 4'-[(2-n-propyl-4-methyl-6-(1-n-hexyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl | C(C)(C)(C)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C=C(C=C2C)C=2N=CN(C2)CCCCCC)CCC | C37H46N4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4'-[(2-n-Propyl-4-methyl-6-(1-n-hexyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N=CN(C2)CCCCCC | C34H38N4O2
